US07589076B2
2-{3-[1-((4-Nitrophenoxy)carbonyl)piperidin-4-yl]propyn-1-yl}adenosine.
Batch: AB-9-149. 4-nitrophenyl 4-(prop-2-ynyl)piperidine-1-carboxylate, batch JR28-97 (0.630 g, 2.185 mmol) was added to a solution of 2-iodoadenosine (0.727 g, 1.849 mmol) according to general procedure 2. Yield: 1.192 g, 65%. %. 1H NMR (CD3OD) δ 8.26 (m, 1H), 8.25-7.34 (2×m, 4H), 5.94 (d, 1H), 4.72 (m, 2H), 4.32-4.14 (2×m, 3H), 3.91-3.71 (2×d, 2H), 3.17-2.90 (2×bt, 4H), 2.48 (d, 5H), 1.45 (m, 5H). m/z MH+=554.15. HPLC rt=7.3 mm.

reactant | 4-nitrophenyl 4-(prop-2-ynyl)piperidine-1-carboxylate | C(C#C)C1CCN(CC1)C(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C15H16N2O4
reactant | 2-iodoadenosine | 1.849 mmol, 0.727 g | IC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)N | C10H12IN5O4
product | 2-{3-[1-((4-Nitrophenoxy)carbonyl)piperidin-4-yl]propyn-1-yl}adenosine | [N+](=O)([O-])C1=CC=C(OC(=O)N2CCC(CC2)CC#CC=2N=C(C=3N=CN([C@H]4[C@H](O)[C@H](O)[C@@H](CO)O4)C3N2)N)C=C1 | C25H27N7O8
